US06391874B1
5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-carboxylic acid hydrochloride
5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-carboxylic acid methyl ester (0.150 g, 0.332 mmol) was suspended in a mixture of EtOH (2 ml) and 2N aqueous NaOH (2 ml). The mixture was stirred at room temperature for 15 mins. To facilitate dissolution, CHCl3 (2 ml) was added and stirring was continued for 3 days, by which time tlc showed there to be no remaining starting material. The organic solvents were removed in vacuo and the residue diluted with water and treated with 2N aqueous HCl to give the product as a yellow solid, which was collected by filtration (0.130 g, 0.274 mmol, 83%); m/z (M+1+) 438.

reactant | 5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-carboxylic acid methyl ester | 0.332 mmol, 0.150 g | COC(=O)C=1OC(=CC1)C=1C=C2C(=NC=NC2=CC1)NC1=CC=C(C=C1)OCC1=CC=CC=C1 | C27H21N3O4
reactant | CHCl3 | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | EtOH | 2 ml | CCO | C2H6O
solvent | NaOH | 2N, 2 ml | [OH-].[Na+]
product | 5-(4-(4-Benzyloxy-phenylamino)-quinazolin-6-yl)-furan-2-carboxylic acid hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=CC=C(O1)C(=O)O | InChI=1S/C26H19N3O4.ClH/c30-26(31)24-13-12-23(33-24)18-6-11-22-21(14-18)25(28-16-27-22)29-19-7-9-20(10-8-19)32-15-17-4-2-1-3-5-17;/h1-14,16H,15H2,(H,30,31)(H,27,28,29);1H
